US07338973B2
{2-[4-(7-benzyloxy-3-methoxy-benzo[4,5]furo[3,2-b]indol-10-ylmethyl)-phenoxy]-ethyl}-diethyl-amine
To a mixture of 7-benzyloxy-3-methoxy-10H-benzo[4,5]furo[3,2-b]indole (102 mg, 0.297 mmol) in DMF (5 mL) was added NaH (37 mg, 60% in mineral oil, 3.0 eq.) followed by [2-(4-chloromethyl-phenoxy)-ethyl]-diethyl-amine hydrochloride salt (99 mg, 0.356 mmol) at 0° C. The mixture was stirred at 0° C. for 30 minutes, warmed to 25° C., and quenched by NH4Cl (solid). EtOAc and water were then added to the mixture. The reaction mixture was then partitioned between EtOAc and water. The aqueous layer was extracted three times with EtOAc. The combined organic layer was washed with brine, dried cover anhydrous Na2SO4, filtered and concentrated to yield crude material. The crude material was purified by silica gel (EtOAc to CH2Cl2:MeOH 5:1) to yield the title compound as a brown solid.

reactant | 7-benzyloxy-3-methoxy-10H-benzo[4,5]furo[3,2-b]indole | 0.297 mmol, 102 mg | C(C1=CC=CC=C1)OC1=CC2=C(C=3NC=4C=CC(=CC4C3O2)OC)C=C1 | C22H17NO3
reactant | NaH | 37 mg, 3.0 eq. | [H-].[Na+]
reactant | [2-(4-chloromethyl-phenoxy)-ethyl]-diethyl-amine hydrochloride salt | 0.356 mmol, 99 mg | Cl.ClCC1=CC=C(OCCN(CC)CC)C=C1
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | {2-[4-(7-benzyloxy-3-methoxy-benzo[4,5]furo[3,2-b]indol-10-ylmethyl)-phenoxy]-ethyl}-diethyl-amine | C(C1=CC=CC=C1)OC1=CC2=C(C=3N(C=4C=CC(=CC4C3O2)OC)CC2=CC=C(OCCN(CC)CC)C=C2)C=C1 | C35H36N2O4
